US09334263B2
To a solution of tert-butyl 4-(5-(1-phenylvinyl)pyrimidin-2-yl)piperazine-1-carboxylate (366 mg, 1.0 mmol) in THF (20 mL) was added trimethylsulfoxonium iodide (1.1 g 5.0 mmol) in dimethyl sulfoxide (7 mL). The reaction mixture was stirred at 80° C. for 4 days, and diluted with ethyl acetate (200 mL). The organic phase was washed with water (200 mL) and brine (100 mL), dried over sodium sulfate, and concentrated. The residue was purified by silica gel chromatography (petroleum ether:ethyl acetate=20:1) to give tert-butyl 4-(5-(1-phenylcyclopropyl)pyrimidin-2-yl)piperazine-1-carboxylate (40 mg, 10%) as a yellow solid. MS (ES+) C22H28N4O2 requires: 380, found: 381 [M+H]+.

reactant | tert-butyl 4-(5-(1-phenylvinyl)pyrimidin-2-yl)piperazine-1-carboxylate | 1.0 mmol, 366 mg | C1(=CC=CC=C1)C(=C)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C21H26N4O2
reactant | trimethylsulfoxonium iodide | 5.0 mmol, 1.1 g | [I-].C[S+](=O)(C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | dimethyl sulfoxide | 7 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(5-(1-phenylcyclopropyl)pyrimidin-2-yl)piperazine-1-carboxylate | 40 mg, 10% | C1(=CC=CC=C1)C1(CC1)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C22H28N4O2
